US08604022B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-methyl-1,4-diazepan-1-yl)benzamide
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-methyl-1,4-diazepan-1-yl)benzamide was prepared following the procedure as for Example 115, but starting from of methyl 4-(4-methyl-1,4-diazepan-1-yl)benzoate (0.372 g, 1.5 mmol) and 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (0.371 g, 1.5 mmol) and 2M trimethylaluminium in toluene (1.875 ml, 3.75 mmol). The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 10% 2.5M ammonia/MeOH in DCM. Pure fractions were evaporated to dryness and the residual oil crystallised from DCM/diethyl ether to afford the title compound (0.142 g, 20.42%) as a white solid. 1HNMR (500.13 MHz, DMSO-d6+CD3COOD@373K) δ: 2.08-2.15 (2H, m), 2.69 (3H, s), 2.88 (4H, s), 3.11 (2H, t), 3.19-3.24 (2H, m), 3.56 (2H, t), 3.72 (3H, s), 3.74 (2H, t), 6.30 (1H, d), 3.32 (1H,$), 6.49 (2H, s), 6.79 (2H, d), 7.86 (2H, d). MS: m/z 464 (MH+).

reactant | methyl 4-(4-methyl-1,4-diazepan-1-yl)benzoate | 1.5 mmol, 0.372 g | CN1CCN(CCC1)C1=CC=C(C(=O)OC)C=C1 | C14H20N2O2
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 1.5 mmol, 0.371 g | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | trimethylaluminium | 2M | C[Al](C)C
reactant | toluene | 3.75 mmol, 1.875 ml | C1(=CC=CC=C1)C | C7H8
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-methyl-1,4-diazepan-1-yl)benzamide | 0.142 g, 20.42% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)N1CCN(CCC1)C)=O | C26H33N5O3
